US04243805
A mixture of 5.3 g of (4-fluorophenylthio)acetic acid and 6.8 g of thionyl chloride is refluxed for 2 hours. Excess of thionyl chloride is evaporated in vacuo and the residue distilled. There are obtained 5.1 g (88%) of oily (4-fluorophenylthio)acetyl chloride, b.p. 76°-77° C./0.25 Torr.

reactant | (4-fluorophenylthio)acetic acid | 5.3 g | FC1=CC=C(C=C1)SCC(=O)O | C8H7FO2S
reactant | thionyl chloride | 6.8 g | S(=O)(Cl)Cl | Cl2OS
product | (4-fluorophenylthio)acetyl chloride | 5.1 g, 88% | FC1=CC=C(C=C1)SCC(=O)Cl | C8H6ClFOS
